US09107916B2
D. 2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carbonitrile
To a mixture of 2-[1-(4-cyanopyridin-2-yl)pyrazol-4-yl]ethyl methanesulfonate (476 mg, 1.6 mmol) and (4-flouro-benzyl)-methyl-amine (444 mg, 3.2 mmol) in ACN (30 mL) at rt was added K2CO3 (4.5 g, 32 mmol) and KI (1.0 g, 6.2 mmol. The reaction mixture was heated to 80° C. and stirred overnight. Filtered, solvent removed and purified by prep-HPLC to give the title compound (270 mg, 50%). [M+H] Calc'd for C19H18FN5, 336. Found, 336.

reactant | 2-[1-(4-cyanopyridin-2-yl)pyrazol-4-yl]ethyl methanesulfonate | 1.6 mmol, 476 mg | CS(=O)(=O)OCCC=1C=NN(C1)C1=NC=CC(=C1)C#N | C12H12N4O3S
reactant | (4-flouro-benzyl)-methyl-amine | 3.2 mmol, 444 mg | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | K2CO3 | 32 mmol, 4.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carbonitrile | 270 mg, 50% | FC1=CC=C(C=C1)CN(CCC=1C=NN(C1)C1=NC=CC(=C1)C#N)C | C19H18FN5
